US07179934B2
(S)-2-(2,4-Difluoro-benzyl)-butan-1-ol
A flask was charged with 29.5 g (˜78.6 mmol) of (4R,5S)-[(S)-2-(2,4-difluoro-benzyl)-butyryl]-4-methyl-5-phenyl-oxazolidin-2-one and 200 mL of dry THF, and the solution was cooled to 0° C. In a separate flask, 11.9 g (314 mmol) of sodium borohydride was taken up in 70 mL of water and added dropwise over 15 minutes to the imide solution. The mixture was allowed to warm to room temperature and stirred overnight. The reaction mixture was quenched with conc. HCl until pH=3 (keeping the reaction mixture temperature <20° C.). THF was removed under reduced pressure, and the residue was taken up in hexanes. The hexane layer was washed with sat. aq. sodium bicarbonate. The hexane layer was removed under reduced pressure, and the residue was purified by column chromatography (9:1 Hexanes/EtOAc) which gave 7.2 g (46% yield) of the titled compound as a clear oil.

reactant | (4R,5S)-[(S)-2-(2,4-difluoro-benzyl)-butyryl]-4-methyl-5-phenyl-oxazolidin-2-one | ˜78.6 mmol, 29.5 g | FC1=C(C[C@@H](C(=O)N2C(O[C@H]([C@H]2C)C2=CC=CC=C2)=O)CC)C=CC(=C1)F | C21H21F2NO3
reactant | THF | 200 mL | C1CCOC1 | C4H8O
reactant | sodium borohydride | 314 mmol, 11.9 g | [BH4-].[Na+]
solvent | water | 70 mL | O | H2O
product | (S)-2-(2,4-Difluoro-benzyl)-butan-1-ol | 7.2 g, 46% yield | FC1=C(C[C@@H](CO)CC)C=CC(=C1)F | C11H14F2O
